US06821980B1
(5a) 5-(2,6-Diethoxy-3′-methoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine
Tetrakis-triphenylphosphine-palladium (57 mg; 0.050 mmol) is suspended in dimethoxyethane (1 ml), while gassing with argon, and 2,4-diamino-5-(4-bromo-3,5-diethoxybenzyl)pyrimidine (367 mg; 1 mmol) in dimethoxyethane (6 ml) is added. After stirring for a quarter of an hour at room temperature, 3-methory-phenylboron acid (228 mg; 1.5 mmol) in ethanol (1.5 ml) is added, the mixture is stirred for a further 5 minutes at room temperature, an aqueous 2 M sodium carbonate solution (4.2 ml; 8.5 mmol) is added and the mixture is then boiled under reflux (bath temperature 85° C.) for 2.5 hours. The reaction mixture is concentrated and the residue is stirred with water and a little methanol and filtered off with suction. The filter cake is stirred with water, filtered off with suction and dried under a high vacuum.

reactant | 2,4-diamino-5-(4-bromo-3,5-diethoxybenzyl)pyrimidine | 1 mmol, 367 mg | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)Br)OCC | C15H19BrN4O2
reactant | sodium carbonate | 8.5 mmol, 2 M, 4.2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 1 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 6 ml | C(OC)COC | C4H10O2
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 5-(2,6-Diethoxy-3′-methoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | C(C)OC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OCC)C1=CC(=CC=C1)OC | C22H26N4O3
